US05817691
Preparation of 2-(p-Chlorophenyl)-5-(phenylsulfinyl)pyrrole-3-carbonitrile
A mixture of 2-(p-chlorophenyl)-5-(phenylthio)pyrrole-3-carbonitrile (916 mg, 2.95 mmol) and 30% hydrogen peroxide solution (105.3 mg, 3.09 mmol) in acetic acid is stirred at room temperature for 3 days, diluted with water and filtered to obtain a solid. The solid is recrystallized from methanol to give the title product as a grey solid (510 mg, mp 169°-170° C.).

reactant | 2-(p-chlorophenyl)-5-(phenylthio)pyrrole-3-carbonitrile | 2.95 mmol, 916 mg | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)SC1=CC=CC=C1 | C17H11ClN2S
reactant | hydrogen peroxide | 3.09 mmol, 105.3 mg | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(p-Chlorophenyl)-5-(phenylsulfinyl)pyrrole-3-carbonitrile | 510 mg | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)S(=O)C1=CC=CC=C1 | C17H11ClN2OS
